US04863945
6,7-Dihydro-7,7-dimethyl-2-(3-indolyl)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
3.1 g. 5,6-Diamino-3,3-dimethylindolin-2-one and 2.5 g. indole-3-aldehyde are stirred for 4 days at ambient temperature in 150 ml. methanol and 4 ml. glacial acetic acid. The solvent is then removed in a vacuum and the residue is purified by column chromatography on silica gel. The appropriate fractions are combined, the solvent is removed in a vacuum, the residue (3.7 g. of a yellow oil) is dissolved in methanol, dichloromethane added thereto until turbidity commences and then left to crystallise. There are obtained 3.1 g. of the title compound; m.p. 243°-245° C.

reactant | 5,6-Diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | indole-3-aldehyde | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-Dihydro-7,7-dimethyl-2-(3-indolyl)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=CNC4=CC=CC=C34)C=C21)=O)C | C19H16N4O
